US06133271
With the procedure of Example 1, the reaction of 3,4-dichlorobenzylamine with 4-chloro-2-(isoxazol-5-yl)-6-ethyl-thieno-[2,3-d]-pyrimidine yields 2-(isoxazol-5-yl)-4-(3,4-dichlorobenzylamino)-6-ethyl-thieno-[2,3-d]-pyrimidine.

reactant | 3,4-dichlorobenzylamine | ClC=1C=C(CN)C=CC1Cl | C7H7Cl2N
reactant | 4-chloro-2-(isoxazol-5-yl)-6-ethyl-thieno-[2,3-d]-pyrimidine | ClC=1C2=C(N=C(N1)C1=CC=NO1)SC(=C2)CC | C11H8ClN3OS
product | 2-(isoxazol-5-yl)-4-(3,4-dichlorobenzylamino)-6-ethyl-thieno-[2,3-d]-pyrimidine | O1N=CC=C1C=1N=C(C2=C(N1)SC(=C2)CC)NCC2=CC(=C(C=C2)Cl)Cl | C18H14Cl2N4OS
